US08119422B2
a) Synthesis of methyl 3,5-dimethyl-4-hydroxybenzoate
A solution of 3,5-dimethyl-4-hydroxybenzoic acid (2 g, 0.012 mol) in anhydrous methanol (60 mL) was cooled in an ice-bath and thionyl chloride (5 mL) was added drop wise to this solution. The reaction was stirred in the ice-bath for one hour and was then warmed to room temperature and stirred for 16 hours. Solid sodium bicarbonate was then added to neutralize the acid and then the mixture was evaporated to dryness by rotary evaporation. The residue was partitioned between ethyl acetate and water (100 mL each). The ethyl acetate layer was separated and washed once with brine. It was then dried over anhydrous magnesium sulfate, filtered and evaporated to dryness. Yield=2.146 g, white powder.

reactant | 3,5-dimethyl-4-hydroxybenzoic acid | 0.012 mol, 2 g | CC=1C=C(C(=O)O)C=C(C1O)C | C9H10O3
reactant | thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 60 mL | CO | CH4O
product | methyl 3,5-dimethyl-4-hydroxybenzoate | CC=1C=C(C(=O)OC)C=C(C1O)C | C10H12O3
